US09108957B2
To a solution of (S)-2-[2-(3-cyano-phenyl)-[1,4]oxazepan-4-yl]-1-methyl-1H-[4,4′]bipyrimidinyl-6-one (A039) (300 mg, 0.772 mmol), tetrahydrofuran (1.90 ml) and 3.0N-sodium carbonate (1.90 ml) in ethanol (1.90 ml) was added 30%-hydrogen peroxide (1.90 ml) at room temperature. The mixture was stirred at room temperature for 2 hours and partitioned between water and chloroform. The organic layer was dried over sodium sulfate and concentrated in vacuo. The residue was washed with diethyl ether to afford (S)-3-[4-(1-Methyl-6-oxo-1,6-dihydro-[4,4′]bipyrimidinyl-2-yl)-[1,4]oxazepan-2-yl]-benzamide (A015) as pale yellow solid (293 mg, 93%).

reactant | (S)-2-[2-(3-cyano-phenyl)-[1,4]oxazepan-4-yl]-1-methyl-1H-[4,4′]bipyrimidinyl-6-one | 0.772 mmol, 300 mg | C(#N)C=1C=C(C=CC1)[C@@H]1OCCCN(C1)C=1N(C(C=C(N1)C1=NC=NC=C1)=O)C | C21H20N6O2
reactant | tetrahydrofuran | 1.90 ml | O1CCCC1 | C4H8O
reactant | sodium carbonate | 1.90 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | hydrogen peroxide | 1.90 ml | OO | H2O2
solvent | ethanol | 1.90 ml | C(C)O | C2H6O
product | (S)-3-[4-(1-Methyl-6-oxo-1,6-dihydro-[4,4′]bipyrimidinyl-2-yl)-[1,4]oxazepan-2-yl]-benzamide | CN1C(=NC(=CC1=O)C1=NC=NC=C1)N1C[C@@H](OCCC1)C=1C=C(C(=O)N)C=CC1 | C21H22N6O3
